US07365095B2
To a solution of {[(2R)-8-(2,6-dichlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}azide (0.21 g, 0.628 mmol) in tetrahydrofuran (10 mL) and water (1 mL) was added polymer-bound triphenylphosphine (˜3 mmol/g, 0.628 g, 1.885 mmol) and the reaction mixture stirred at room temperature for 4 days. The brown suspension was then filtered through celite, the filter cake washed with ethyl acetate (50 mL) and the combined filtrates concentrated under reduced pressure to afford a yellow syrup. Purification by flash chromatography using a solvent gradient of 0.5 to 5% ammonia saturated methanol solution in dichloromethane gave 159 mg (82%) of {[(2R)-8-(2,6-dichlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}amine as a colorless syrup. The product was dissolved in 2-propanol (1 mL) and diethyl ether (2.5 mL) and a solution of hydrogen chloride (1.0 M in diethyl ether, 0.517 mL, 0.517 mmol) was added followed by hexane (2 mL). The resulting white precipitate was filtered to afford 155 mg (72%) of {[(2R)-8-(2,6-dichlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}amine hydrochloride as a white crystalline solid, mp 188–190° C.; [α]D25=−6.74° (c=5.4 mg/0.7 mL MeOH).

reactant | {[(2R)-8-(2,6-dichlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}azide | 0.628 mmol, 0.21 g | ClC1=C(C(=CC=C1)Cl)C=1C=CC=C2CC[C@@H](OC12)CN=[N+]=[N-] | C16H13Cl2N3O
reactant | triphenylphosphine | 1.885 mmol, 0.628 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | {[(2R)-8-(2,6-dichlorophenyl)-3,4-dihydro-2H-chromen-2-yl]methyl}amine | 159 mg, 82% | ClC1=C(C(=CC=C1)Cl)C=1C=CC=C2CC[C@@H](OC12)CN | C16H15Cl2NO
